US06921753B2
Benzyl 2-[(1-ethylpropyl)(isobutyl)amino]ethylcarbamate.
Sodium triacetoxyborohydride (1.87 g, 8.84 mmol) was added to a solution of benzyl 2-[(1-ethylpropyl)amino]ethylcarbamate (1.8 g, 6.8 mmol) (Preparation 50), 3-methylbutanal (0.8 ml, 7.5 mmol) and acetic acid (1 ml, 8.85 mmol) in dichloromethane (50 ml). The reaction mixture was stirred for 16 hours at room temperature. The reaction mixture was diluted with dichloromethane (50 ml) and then washed with saturated aqueous sodium hydrogen carbonate solution (100 ml). The organic phase was dried over anhydrous magnesium sulphate and then the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (95:5 by volume) increasing in polarity to dichloromethane:methanol:0.88 concentrated aqueous ammonia (95:5:0.5 by volume). This gave the title compound as an oil (1.3 g).

reactant | Sodium triacetoxyborohydride | 8.84 mmol, 1.87 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | benzyl 2-[(1-ethylpropyl)amino]ethylcarbamate | 6.8 mmol, 1.8 g | C(C)C(CC)NCCNC(OCC1=CC=CC=C1)=O | C15H24N2O2
reactant | 3-methylbutanal | 7.5 mmol, 0.8 ml | CC(CC=O)C | C5H10O
reactant | acetic acid | 8.85 mmol, 1 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Benzyl 2-[(1-ethylpropyl)(isobutyl)amino]ethylcarbamate | 1.3 g | C(C)C(CC)N(CCNC(OCC1=CC=CC=C1)=O)CC(C)C | C19H32N2O2
